US04609650
16β-Ethyl-17β-cyclopentylacetoxyacetoxy-4-estren-3-one
In 10 ml of dichloromethane are dissolved 0.5 g of 16β-ethyl-17β-glycoloyloxy-4-estren-3-one and 0.2 ml of N,N-dimethylaniline and, with stirring, 0.3 ml of cyclopentylacetyl chloride is added. The mixture is stirred at room temperature (15°-25° C.) overnight and 150 ml of ethyl acetate is added. The mixture is washed with 10% H3PO4, water, 10% aqueous NaHCO3, water and saturated aqueous sodium chloride solution in that order and dried over anhydrous magnesium sulfate. The solvent is then distilled off and the residue is subjected to column chromatography. Following passage of 80 ml of diisopropyl ether-n-hexane (1:10), elution is carried out with 80 ml of a 1:1 mixture of the same solvents. The eluate is evaporated under reduced pressure to remove the solvent, giving 0.1 g of the above-identified compound as a colorless viscous oil.

reactant | 16β-ethyl-17β-glycoloyloxy-4-estren-3-one | 0.5 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CO)=O | C22H32O4
reactant | N,N-dimethylaniline | 0.2 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | cyclopentylacetyl chloride | 0.3 ml | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 16β-Ethyl-17β-cyclopentylacetoxyacetoxy-4-estren-3-one | 0.1 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(CC2CCCC2)=O)=O | C29H42O5
